US07507740B2
(iv) Production of 5-(4-aminobut-2-yn-1-yl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride
tert-Butyl {4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-yn-1-yl}carbamate (1.90 g) was dissolved in tetrahydrofuran (35 mL), 2N hydrochloric acid (18 mL) was added, and the mixture was stirred at 60° C. for 16 hrs. To the reaction mixture was added ethanol, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound (802 mg) as a white powder.

reactant | tert-Butyl {4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-yn-1-yl}carbamate | 1.90 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CC#CCNC(OC(C)(C)C)=O | C28H25ClF3N5O3
reactant | hydrochloric acid | 2N, 18 mL | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 5-(4-aminobut-2-yn-1-yl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 802 mg | Cl.Cl.NCC#CCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl | InChI=1S/C23H17ClF3N5O.2ClH/c24-18-13-16(6-7-20(18)33-17-5-3-4-15(12-17)23(25,26)27)31-22-21-19(29-14-30-22)8-11-32(21)10-2-1-9-28;;/h3-8,11-14H,9-10,28H2,(H,29,30,31);2*1H
